US07504401B2
1,3-dibromo-5-nitrobenzene (30.0 g, 107 mmol), freshly powdered potassium hydroxide (10.8 g, 192 mmol) and tetrabutylammonium bromide (3.42 g, 10.7 mmol) were dissolved in tetramethyl urea (TMU, 90 mL). A solution of p-methoxybenzyl alcohol (17.8 g, 128 mmol) in TMU (30 mL) was added drop-wise at room temperature over a period of 1 h. The mixture was stirred for 48 h at room temperature. The reaction mixture was poured on ice (160 g) and was extracted with tert-butylmethyl ether (4×200 mL). The combined organics were dried (MgSO4) and concentrated to give the crude product which was purified by FC (2.5 kg SiO2, AcOEt/heptane 1:9) to provide 29.6 g of 3,5-dibromo-1-p-methoxy-benzyloxybenzene which was not completely pure but which crystallized upon standing. The solid was taken up in methanol (27 mL) and the formed slurry was stirred at 60° C. for 10 min. The suspension was cooled to 0-5° C. and was then filtered. The filter cake was washed with cold methanol (2×15 mL) and dried to provide 28.1 g (71%) of 3,5-dibromo-1-p-methoxy-benzyloxybenzene as an off-white solid.

reactant | 1,3-dibromo-5-nitrobenzene | 107 mmol, 30.0 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])Br | C6H3Br2NO2
reactant | potassium hydroxide | 192 mmol, 10.8 g | [OH-].[K+]
reactant | p-methoxybenzyl alcohol | 128 mmol, 17.8 g | COC=1C=CC(=CC1)CO | C8H10O2
catalyst | tetrabutylammonium bromide | 10.7 mmol, 3.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetramethyl urea | 90 mL | CN(C(N(C)C)=O)C | C5H12N2O
solvent | TMU | 30 mL | CN(C(N(C)C)=O)C | C5H12N2O
product | 3,5-dibromo-1-p-methoxy-benzyloxybenzene | 29.6 g | BrC=1C=C(C=C(C1)Br)OCC1=CC=C(C=C1)OC | C14H12Br2O2
